US06660753B2
2-Bromo-5-methoxybenzoic acid (231 mg, 1.0 mmol) in dichloromethane (1.5 mL) was treated with a solution of oxalyl chloride (1.5 mL of 2 M in dichloromethane, 3 mmol) and a catalytic amount of N,N-dimethylformamide. The reaction was stirred overnight at ambient temperature. The excess oxalyl chloride was removed in vacuo to afford 2-bromo-5-methoxybenzoyl chloride.

reactant | 2-Bromo-5-methoxybenzoic acid | 1.0 mmol, 231 mg | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | oxalyl chloride | 3 mmol, 2 M, 1.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 2-bromo-5-methoxybenzoyl chloride | BrC1=C(C(=O)Cl)C=C(C=C1)OC | C8H6BrClO2
